US05362915
cis-3-(3-Cyclopentyloxy-4-methoxyphenyl-1-methoxycyclopentane (E13)
3-(3-Cyclopentyloxy-4-methoxyphenyl)-cyclopentan-1-ol (predominantly cis, 130 mg, 0.47 mmol) (E9) in methylene chloride (5 ml) was stirred vigorously with aqueous sodium hydroxide (50%, 0.2 ml), tetrabutylammonium bromide (3 mg) and dimethylsulfate (0.1 ml, 1.05 mmol) under an argon atmosphere. The resulting mixture was stirred at room temperature for 24 hr, whereupon additional aqueous sodium hydroxide (0.2 ml) , tetrabutylammonium bromide (3 mg) and dimethylsulfate (0.1 ml) were added. After an additional 72 hr, the mixture was poured into water and extracted with methylene chloride. The extracts were dried (sodium sulfate) and concentrated under reduced pressure. Purification by flash chromatography, eluting with 1.5:1 ether/hexanes, provided the title compound as an oil.

reactant | 3-(3-Cyclopentyloxy-4-methoxyphenyl)-cyclopentan-1-ol | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(CC1)O | C17H24O3
reactant | sodium hydroxide | 0.2 ml | [OH-].[Na+]
reactant | dimethylsulfate | 1.05 mmol, 0.1 ml | COS(=O)(=O)OC | C2H6O4S
reactant | sodium hydroxide | 0.2 ml | [OH-].[Na+]
reactant | dimethylsulfate | 0.1 ml | COS(=O)(=O)OC | C2H6O4S
reactant | water | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium bromide | 3 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrabutylammonium bromide | 3 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-Cyclopentyloxy-4-methoxyphenyl-1-methoxycyclopentane | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCCC1)OC | C18H26O3
